US04452745
A solution of 9.0 g. of fluoren-9-one dissolved in 500 ml. of tetrahydrofuran was added dropwise over one hour to a stirred cold (-80° C.) solution of 500 ml. of tetrahydrofuran containing 9.7 g. of 3-isopropylaminopropyne and 75 ml. of a 1.6 molar tetrahydrofuran solution of n-butyl lithium. After the addition was complete, the reaction mixture was warmed to room temperature and then heated to reflux for sixteen hours. The reaction mixture was next cooled to room temperature and diluted by the dropwise addition of 200 ml. of water. The aqueous mixture was extracted several times with diethyl ether, and the ethereal extracts were combined, and the reaction product was converted to the hydrochloride salt by the addition of 300 ml. of 6N hydrochloric acid to the ethereal solution. The aqueous acid layer containing the reaction product was separated, washed once with fresh diethyl ether, and then made alkaline by the addition of 10 percent sodium hydroxide, which effected liberation of the hydrochloride salt back to the free amine. The free amine was extracted into fresh diethyl ether. The ethereal extracts were combined, washed with water and dried. Removal of the solvent by evaporation under reduced pressure then afforded 2.3 g of 9-(3-isopropylaminopropynyl)-9-hydroxyfluorene. M.P. 214°-215° C.

reactant | fluoren-9-one | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9.7 g | O1CCCC1 | C4H8O
reactant | 3-isopropylaminopropyne | C(C)(C)NCC#C | C6H11N
reactant | tetrahydrofuran | 1.6 molar | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
solvent | water | O | H2O
product | 9-(3-isopropylaminopropynyl)-9-hydroxyfluorene | 2.3 g | C(C)(C)NCC#CC1(C2=CC=CC=C2C=2C=CC=CC12)O | C19H19NO
